US06002008
N-[4-[(3,4-dibromophenyl)amino]-3-cyano-6-quinolinyl]-2-butynamide
Isobutyl chloroformate (0.984 g, 7.18 mmol) and N-methylmorpholine (0.725 g, 7.18 mmol) were added to an ice cold solution of 0.604 g (7.18 mmol) of 2-butynoic acid in 25 mL of tetrahydrofuran. After 10 min, a solution of 1.20 g (2.87 mmol) of 6-amino-4-[(3,4-dibromophenyl)amino]-3-quinolinecarbonitrile in 12 mL of tetrahydrofuran was added dropwise. After stirring overnight at 25° C., volatile material was removed and the residue was slurried in water and filtered. The crude product was washed with boiling EtOAC and ethanol and dried in vacuo(50° C.) to give 0.651 g of brown solid: mass spectrum (electrospray, m/e): M+H 485.

reactant | Isobutyl chloroformate | 7.18 mmol, 0.984 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 7.18 mmol, 0.725 g | CN1CCOCC1 | C5H11NO
reactant | 2-butynoic acid | 7.18 mmol, 0.604 g | C(C#CC)(=O)O | C4H4O2
reactant | 6-amino-4-[(3,4-dibromophenyl)amino]-3-quinolinecarbonitrile | 2.87 mmol, 1.20 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=C(C=C1)Br)Br | C16H10Br2N4
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | N-[4-[(3,4-dibromophenyl)amino]-3-cyano-6-quinolinyl]-2-butynamide | 0.651 g | BrC=1C=C(C=CC1Br)NC1=C(C=NC2=CC=C(C=C12)NC(C#CC)=O)C#N | C20H12Br2N4O
